* C:\Users\Nick\Documents\GitHub\Micro-DMM\LTSpice\Voltmeter W Continuity.asc
V1 N008 0 5
R1 N003 N005 500K
R2 N004 N007 500k
R3 N006 N007 22K
R4 0 N007 10Meg
XU1 N005 0 ADR5041
V2 N002 N001 SINE(0 100 5)
R5 N005 N008 4.7K
D1 N007 N008 1N5817
D2 0 N007 1N5817
R6 N004 N003 .1
M1 N005 N009 N006 N006 IRFZ44N
V3 N009 0 PULSE(0 9 0.5 0 0 0.5 1)
R7 0 N009 1k
R8 0 N005 10Meg
.model D D
.lib C:\Users\Nick\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Nick\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1
* (This simulates a MOSFET driver\ncontrolled by an GPIO)
* (This simulates ADC \nconnection 2/2)
* (This simulates ADC \nconnection 1/2)
* Probe 1
* Probe 2
.lib ADR5041.sub
.backanno
.end
